US07863310B2
N-[Isobutyl]2-nitro-5-chloroaniline
Add a solution of isobutylamine (14 mL, 0.138 mol), potassium carbonate (10.4 g, 0.075 mol) and water (50 mL) to a solution of 4-chloro-2-fluoro-nitrobenzene (11.0 g, 0.063 mol) in tetrahydrofuran (0.3 L) and stir at ambient temperature for 3 hours. Separate phases and wash organic layer with 1:1 solution of 1N HCl (aq)/saturated sodium chloride. Dry organic phase with solid magnesium sulfate, filter and concentrate under reduced pressure to give 14.5 g (0.063 mol) of the desired compound as an orange oil that solidifies upon standing.

reactant | isobutylamine | 0.138 mol, 14 mL | C(C(C)C)N | C4H11N
reactant | potassium carbonate | 0.075 mol, 10.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 50 mL | O | H2O
reactant | 4-chloro-2-fluoro-nitrobenzene | 0.063 mol, 11.0 g | ClC1=CC(=C(C=C1)[N+](=O)[O-])F | C6H3ClFNO2
solvent | tetrahydrofuran | 0.3 L | O1CCCC1 | C4H8O
product | N-[Isobutyl]2-nitro-5-chloroaniline | 0.063 mol, 14.5 g | C(C(C)C)NC1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C10H13ClN2O2
